US06919329B2
Step 1: Preparation of 2-methylpropyl [3-fluoro-4-(tetrahydro-2H-thiopyran-4-yl)phenyl]carbamate
A solution of 2-methylpropyl [3-fluoro-4-(tetrahydro-4-hydroxy-2H-thiopyran-4-yl)phenyl]carbamate (See Org. Proc. Res. Dev. 2001, 5, 80-83, 4.00 g, 12.2 mmol) in trifluoroacetic acid (19 mL, 244 mmol) under N2 is treated with triethylsilane (5.85 mL, 36.6 mmol) dropwise, stirred for 1 h, and then added dropwise to saturated aqueous potassium carbonate (250 mL) with vigorous stirring. The mixture is extracted with diethyl ether (200 mL), and the organic phase is washed with water (2×50 mL) and saline (50 mL), dried over anhydrous magnesium sulfate and concentrated under reduced pressure. Trituration and filtration from diethyl ether/hexanes or ethyl acetate/hexanes gives the title compound, 1H NMR (CDCl3, 400 MHz) δ 7.26 (m, 1H), 7.11 (t, 1H), 6.97 (m, 1H), 6.59 (bs, 1H), 3.95 (d, 2H), 2.85 (m, 3H), 2.68 (m, 2H), 2.09 (m, 2H), 1.98 (m, 1H), 1.84 (m, 2H), 0.96 (d, 6H).

reactant | 2-methylpropyl [3-fluoro-4-(tetrahydro-4-hydroxy-2H-thiopyran-4-yl)phenyl]carbamate | 12.2 mmol, 4.00 g | FC=1C=C(C=CC1C1(CCSCC1)O)NC(OCC(C)C)=O | C16H22FNO3S
reactant | trifluoroacetic acid | 244 mmol, 19 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | triethylsilane | 36.6 mmol, 5.85 mL | C(C)[SiH](CC)CC | C6H16Si
solvent | potassium carbonate | 250 mL | C([O-])([O-])=O.[K+].[K+]
product | 2-methylpropyl [3-fluoro-4-(tetrahydro-2H-thiopyran-4-yl)phenyl]carbamate | FC=1C=C(C=CC1C1CCSCC1)NC(OCC(C)C)=O | C16H22FNO2S
